US08754103B2
3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-ylboronic acid (56.2 mg, 0.217 mmol), 4-bromo-2-fluoro-1-(trifluoromethoxy)benzene (50.0 mg, 0.217 mmol, 1.0 equiv.) and Pd(PPh3)4 (12.6 mg, 0.0109 mmol, 0.05 equiv.) was placed in a 50 mL round bottomed flask under a nitrogen atmosphere. To the flask were added 2M-Na2CO3 (1.0 mL, 2.0 mmol) and DMF (4 mL) subsequently at ambient temperature. The mixture was heated at 110° C. for 1 hours. The mixture was filtered through Celite (3 g) and the Celite was washed with EtOAc (70 mL). The organic layer was washed with brine (30 mL) and dried with Na2SO4. The solvent was removed under a reduced pressure. Obtained crude mixture was purified by a column chromatography (SiO2=25 g, EtOAc/hexane=1:3 to 1:1, Rf=0.3 with EtOAc/hexane=1:1) to give 6-(3-fluoro-4-(trifluoromethoxy)phenyl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridine as colorless crystals

reactant | 3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-ylboronic acid | 0.217 mmol, 56.2 mg | FC(C1=NN=C2N1C=C(C=C2)B(O)O)(F)F | C7H5BF3N3O2
reactant | 4-bromo-2-fluoro-1-(trifluoromethoxy)benzene | 0.217 mmol, 50.0 mg, 1.0 equiv. | BrC1=CC(=C(C=C1)OC(F)(F)F)F | C7H3BrF4O
reactant | Na2CO3 | 2.0 mmol, 1.0 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.0109 mmol, 12.6 mg, 0.05 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 6-(3-fluoro-4-(trifluoromethoxy)phenyl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridine | FC=1C=C(C=CC1OC(F)(F)F)C=1C=CC=2N(C1)C(=NN2)C(F)(F)F | C14H6F7N3O
